US08133908B2
Description 12: N-[(1S,4S,6S)-3-Azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyridinamine (D12)
In a 250 ml hydrogenation flask phenylmethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyridinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate D11 (0.275 g) was dissolved in MeOH (20 ml) and Pd/C (0.0722 g, 0.068 mmol) was added. The resulting suspension was hydrogenated at atmospheric pressure. After 25 min UPLC (Acid GEN_QC) showed a main side product with rt=0.99, peak observed: 284 (M+1). The Pd/C was filtered on a celite pad, the solvent was removed under reduced pressure to give an off-white semisolid. This solid was dissolved in anhydrous EtOAc (20 ml) and Pd/C (0.0722 g, 0.068 mmol) was added. The suspension was hydrogenated at atmospheric pressure for 50 minutes (total time). The Pd/C was filtered on a celite pad, the solvent was removed under reduced pressure to give a yellowish solid, which was purified via Biotage SP4 (NH 25+M column; Cy/EtOAc: 1/0 to 75/25 15 CV, 75/25 3 CV, to 0/1 20 CV) to give the title compound D12 (0.100 g). HPLC (walk-up): rt=3.19 min MS: (ES/+) m/z: 272 (M+1). C13H16F3N3 requires 271. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.22-8.32 (m, 1 H), 7.57-7.64 (m, 1 H), 7.21-7.28 (m, 1 H), 6.60 (d, 1 H), 3.12-3.26 (m, 1 H), 2.89-3.10 (m, 3 H), 2.37-2.47 (m, 1 H), 1.83-1.94 (m, 1 H), 1.05-1.18 (m, 1 H), 0.69-0.98 (m, 2 H), 0.42-0.52 (m, 1 H), 0.28-0.39 (m, 1 H).

reactant | phenylmethyl (1S,4S,6S)-4-({[5-(trifluoromethyl)-2-pyridinyl]amino}methyl)-3-azabicyclo[4.1.0]heptane-3-carboxylate | FC(C=1C=CC(=NC1)NC[C@H]1N(C[C@H]2C[C@H]2C1)C(=O)OCC1=CC=CC=C1)(F)F | C21H22F3N3O2
solvent | MeOH | 20 ml | CO | CH4O
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.068 mmol, 0.0722 g | [Pd] | Pd
catalyst | Pd/C | 0.068 mmol, 0.0722 g | [Pd] | Pd
product | N-[(1S,4S,6S)-3-Azabicyclo[4.1.0]hept-4-ylmethyl]-5-(trifluoromethyl)-2-pyridinamine | [C@H]12CN[C@@H](C[C@@H]2C1)CNC1=NC=C(C=C1)C(F)(F)F | C13H16F3N3
